Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
L sided facial pain and swelling
 
Major Surgical or Invasive Procedure:
___ I/D

 
History of Present Illness:
Mr. ___ is a ___ PMHx diabetes, prior abscesses, prior
MRSA infections, HCV who presents as a transfer from ___ 
for
left facial swelling. 

He reports that he felt he had a pimple on the left side of his
face and when he tried to scratch it today he had some drainage.
Swelling has gradually worsened over the past few days, he is
used topical antibiotic ointment with no improvement. He has a
history of abscesses ___ the past, notes another small indurated
area under his left nipple. Reports that pain is around the left
eye and extends to the left ear and now feels like it is
extending into his throat. No difficulty eating or drinking. He
has a history of MRSA ___ the past. He was given a dose of
clindamycin at ___ as well as a CT scan that demonstrated
left facial and periorbital cellulitis with no post septal
cellulitis and a 11 mm subcutaneous abscess lateral to the left
orbital rim.

___ the ED:

- Exam notable for:
General: Intermittently agitated, walking around room, appears
uncomfortable
Eyes: PERRLA, extraocular motions are intact, there is
significant swelling and erythema over the left periorbital
region with an area of fluctuance and purulent material lateral
to the left orbital rim.
HEENT: Mucous members are moist, there are no intraoral lesions
Neck: Some mild lymphadenopathy of the left cervical region, no
meningismus, moves neck neck fully
Cardiac: Regular rate and rhythm, no murmurs
Lungs: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended
Extremities: No lower extremity edema
Neuro: Cranial nerves II through XII are intact, ___ strength ___
the upper and lower extremities, no focal neuro deficits

- Labs were notable for:
WBC 12
Hb 11.9
Glucose 394
- Studies performed include:
 none (CT performed at OSH, images uploaded here) 
 Underwent I&D of abscess ___ ED with 1cc of
purulence retrieved and ___ wick placement

- Patient was given:
___ 14:49 IV CefePIME 2 g 
___ 20:24 IV Vancomycin 1000 mg  
___ 20:37 SC Insulin 30 UNIT 

- Consults:
Plastics: no indication for urgent OR, recommend discussion with
ENT and optho for further recs.
ENT: I&D performed, admit to medicine for IV antibiotics
Optho

Upon arrival to the floor, he endorses the above history. He
continues to have face pain, and also reports that he is worried
he may be developing another abscess over his L nipple. He 
denies
fevers, chills, cough, chest pain, shortness of breath,
difficulty eating/swallowing, 

 
Past Medical History:
IDDM
Prior groin abscess
Prior Hx MRSA
Hepatitis C
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS:24 HR Data (last updated ___ @ 2246)
    Temp: 99.4 (Tm 99.4), BP: 147/84, HR: 95, RR: 18, O2 sat:
96%, O2 delivery: RA  
GENERAL: Alert and interactive. ___ no acute distress.
HEENT: significant L facial swelling and erythema w/ 
blepharitis,
raised area just lateral to L orbit with wick ___ place c/d/I no
visible purulent drainage 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation ___ all four quadrants. No organomegaly.
MSK: No spinous process tenderness. No CVA tenderness. No
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash. Small erythematous papule
around L nipple. 
NEUROLOGIC: face symmetric, moving all extremities with purpose,
gait not assessed 

DISCHARGE PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 1159)
    Temp: 98.2 (Tm 99.4), BP: 129/77 (129-147/77-87), HR: 82 
(82-95), RR: 1 (___), O2 sat: 98% (96-98), O2 delivery: Ra  
HENT: L facial swelling and erythema w/ small area of open 
purulent drainage

Remainder of exam unable to be performed as pt left against 
medical advice.

 
Pertinent Results:
LABS
======
___ 02:55PM BLOOD WBC-12.4* RBC-4.02* Hgb-11.9* Hct-36.7* 
MCV-91 MCH-29.6 MCHC-32.4 RDW-12.8 RDWSD-42.6 Plt ___
___ 02:55PM BLOOD Neuts-74.3* Lymphs-12.9* Monos-9.3 
Eos-2.5 Baso-0.3 Im ___ AbsNeut-9.17* AbsLymp-1.59 
AbsMono-1.15* AbsEos-0.31 AbsBaso-0.04
___ 02:55PM BLOOD ___ PTT-31.9 ___
___ 02:55PM BLOOD Glucose-394* UreaN-11 Creat-0.9 Na-137 
K-5.1 Cl-94* HCO3-27 AnGap-16
___ 05:46AM BLOOD ALT-16 AST-12 AlkPhos-76 TotBili-0.3
___ 05:46AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.1
___ 03:43AM BLOOD %HbA1c-11.7* eAG-289*

MICROBIOLOGY
==============
___ 9:50 am SWAB      Source: facial abscess. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

 
Brief Hospital Course:
SUMMARY
===========
Mr. ___ is a ___ past medical history of diabetes, 
prior abscesses, prior MRSA infections, HCV, and substance abuse 
who presents as a transfer from ___ for left facial abscess 
and cellulitis. An I/D was performed by ENT ___ the ED and the 
patient was started on IV vancomycin and cefepime for empiric 
treatment. He was also evaluated by ophthalmology while 
admitted. Plans were made to continue with IV antibiotics until 
cultures yielded more information that would allow for tailoring 
of antibiotic therapy and transition to a PO regimen. 
Unfortunately, the patient elected to leave against medical 
advice shortly after admission, saying that he had to go to an 
intake appointment at a ___ clinic. The risks of leaving, 
including worsening infection that spreads to the eye or blood 
stream, were explained. The patient expressed understanding of 
these risks and was still adamant about leaving.

He was given a prescription for a 10d course of PO Bactrim to 
take after leaving. Follow up with ENT will be arranged within 
___ days. The patient was advised about warning symptoms that 
should prompt immediate return to the hospital.

TRANSITIONAL ISSUES
=====================
[] The patient should complete a 10 day course of Bactrim 
(___).
[] The patient should follow up with ENT within ___ days.
[] He should also be seen by ophthalmology ___ 14 days.
[] Please follow up results of pending wound culture.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 50 Units Breakfast
Glargine 50 Units Bedtime

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 10 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0 
2.  Glargine 50 Units Breakfast
Glargine 50 Units Bedtime 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left facial abscess
Facial/preseptal cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have decided to leave the hospital against medical advice. 
Your doctors ___ not think it is safe for you to be discharged 
from the hospital at this time because of the risk for your 
infection to spread into your eye or your blood and other parts 
of your body. 

Please take the oral antibiotics for 10 days.

It is highly recommended that you follow up with the ENT 
surgical team ___ ___ days. Their office will call you to 
arrange an appointment. If you have not heard from them ___ 2 
days, please call ___  to set up an appointment.  

If you experience any worsening of symptoms including increased 
swelling, pain, or drainage; or any vision changes or eye pain, 
please come immediately back to the hospital.
 
Followup Instructions:
___